US04699984
A mixture containing 69 g of dimethyl 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylate, 300 ml of methanol and 100 ml of 35% aqueous sodium hydroxide solution was refluxed with stirring for 5 hours and then allowed to stand at room temperature overnight. The methanol was removed using a rotary evaporator and to the residual liquid was added 200 ml of water and filtered. The filtrate was acidifed with concentrated hydrochloric acid whereupon there precipitated a cream colored solid, which was washed with water and dried at 80°-85° C. to yield 52.6 g (88%) of 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylic acid, m.p. >285° C.

reactant | dimethyl 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylate | 69 g | FC1=C(C=CC=C1)C1=C(C(=NC(=C1C(=O)OC)C)C)C(=O)OC | C17H16FNO4
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 4-(2-fluorophenyl)-2,6-dimethyl-3,5-pyridinedicarboxylic acid | 52.6 g, 88% | FC1=C(C=CC=C1)C1=C(C(=NC(=C1C(=O)O)C)C)C(=O)O | C15H12FNO4
